US06552067B2
5-[3-Oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one Magnesium coils (1.13 g) were stirred under vacuum in a round bottom flask for 60 h. Anhydrous Et2O (5 mL) was added and the reaction mixture was cooled to 0° C. A solution of 3-trifluoromethylbenzyl chloride (1.0 mL, 7.5 mmol) in Et2O (25 mL) was added dropwise over 3 h. The reaction mixture was stirred for an additional 2.5 h. The solution was slowly added via a syringe and filtered through a Nylon Acrodisc™ syringe filter into a solution of tetrahydro-pyrrolizine-3,5-dione (650 mg, 4.68 mmol) in CH2Cl2 (30 mL) at 0° C. After 2 h, the reaction mixture was quenched with 1 N HCl and the aqueous solution was washed with CH2Cl2 (2×). The organic solutions were combined, dried (MgSO4), filtered and concentrated. Medium pressure chromatography (1:1 hexanes:EtOAc) provided 5-[3-oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one (1.376 g). 1H NMR (CDCl3) δ7.38 (m, 4H), 3.78 (s, 2H), 3.61 (m, 1H), 2.58 (t, 2H), 2.30 (m, 2H), 2.20 (m, 1H), 2.86-1.59 (m, 3H).

reactant | 5-[3-Oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one Magnesium | [Mg].O=C(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F
reactant | 3-trifluoromethylbenzyl chloride | 7.5 mmol, 1.0 mL | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | tetrahydro-pyrrolizine-3,5-dione | 4.68 mmol, 650 mg | C1CC(N2C(CCC12)=O)=O | C7H9NO2
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 5-[3-oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one | 1.376 g | O=C(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F | C15H16F3NO2
